US04376731
In an analogous manner, by reacting 2-cyano-aziridine with ethyl chloroformate, there is obtained ethyl 2-cyano-1-aziridine-carboxylate; b.p. 70°-75°C./0.01 mm.Hg.

reactant | 2-cyano-aziridine | C(#N)C1NC1 | C3H4N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | ethyl 2-cyano-1-aziridine-carboxylate | C(#N)C1N(C1)C(=O)OCC | C6H8N2O2
